US05223536
A mixture of 0.40 gram (0.01 mole) of 1-cyclopropyl-1-(4-chlorophenyl)-4-(4-fluoro-3-phenoxyphenyl)-1,3-pentadiene and 2.43 grams (0.1 mole) of magnesium in 25 ml of methanol and 5 ml of ethanol was vigorously stirred for about 18 hours at ambient temperature. After this time the reaction was quenched with aqueous 3N hydrochloric acid, and the reaction mixture was extracted with two 25 ml portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 0.23 gram of 1-cyclopropyl-1-(4-chlorophenyl)-4-(4-fluoro-3-phenoxyphenyl)-2-pentene. The nmr spectrum was consistent with the proposed structure.

reactant | 1-cyclopropyl-1-(4-chlorophenyl)-4-(4-fluoro-3-phenoxyphenyl)-1,3-pentadiene | 0.01 mole, 0.40 gram | C1(CC1)C(=CC=C(C)C1=CC(=C(C=C1)F)OC1=CC=CC=C1)C1=CC=C(C=C1)Cl | C26H22ClFO
reactant | magnesium | 0.1 mole, 2.43 grams | [Mg] | Mg
solvent | methanol | 25 ml | CO | CH4O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-cyclopropyl-1-(4-chlorophenyl)-4-(4-fluoro-3-phenoxyphenyl)-2-pentene | 0.23 gram | C1(CC1)C(C=CC(C)C1=CC(=C(C=C1)F)OC1=CC=CC=C1)C1=CC=C(C=C1)Cl | C26H24ClFO
